US03990881
1-[5-(N-Furfuryl-N-methylsulfamoyl)-1,3,4-thiadiazol-2-yl]-1,3-dimethylurea
To a solution of 3 g. of 2-methylamino-5-[N-methyl-N-furfurylsulfamoyl]-1,3,4-thiadiazole (from Preparation 3) in 50 ml. of toluene was added 1 g. of methyl isocyanate. The reaction mixture was heated at reflux for about 3 hours. The reaction product mixture was cooled and the solid which precipitated was filtered off. The solid weighed about 2.5 g. It was recrystallized from commercial absolute ethanol to give tan crystals weighing about 1 g., and having a melting point of about 131°-132° C. The product was identified by NMR spectrum and elemental analyses as 1-[5-N-furfuryl-N-methylsulfamoyl)-1,3,4-thiadiazol-2-yl]-1,3-dimethylurea.

reactant | 2-methylamino-5-[N-methyl-N-furfurylsulfamoyl]-1,3,4-thiadiazole | CNC=1SC(=NN1)S(N(CC1=CC=CO1)C)(=O)=O | C9H12N4O3S2
reactant | methyl isocyanate | CN=C=O | C2H3NO
reactant | 1,3-dimethylurea | CNC(=O)NC | C3H8N2O
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 1-[5-(N-Furfuryl-N-methylsulfamoyl)-1,3,4-thiadiazol-2-yl]-1,3-dimethylurea | C(C1=CC=CO1)N(S(=O)(=O)C1=NN=C(S1)N(C(=O)NC)C)C | C11H15N5O4S2
